US06642389B2
In analogy to the procedure described in example 108 c], [rac]-2-ethoxy-3-(7-hydroxy-benzo[b]thiophen-4-yl)-propionic acid methyl ester (example 151 a]) was treated with 4-chloromethyl-2-(4-isopropoxy-phenyl)-5-methyl-oxazole (prepared from 4-isopropoxy-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 21 a] and b]) and sodium hydride in N,N-dimethylformamide to yield [rac]-2-ethoxy-3-{7-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-benzo[b]thiophen-4-yl}-propionic acid methyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-2-ethoxy-3-{7-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-benzo[b]thiophen-4-yl}-propionic acid as colorless solid.

reactant | [rac]-2-ethoxy-3-(7-hydroxy-benzo[b]thiophen-4-yl)-propionic acid methyl ester | COC(C(CC1=CC=C(C=2SC=CC21)O)OCC)=O | C14H16O4S
reactant | 4-chloromethyl-2-(4-isopropoxy-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)OC(C)C | C14H16ClNO2
reactant | 4-isopropoxy-benzaldehyde | C(C)(C)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [rac]-2-ethoxy-3-{7-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-benzo[b]thiophen-4-yl}-propionic acid methyl ester | COC(C(CC1=CC=C(C=2SC=CC21)OCC=2N=C(OC2C)C2=CC=C(C=C2)OC(C)C)OCC)=O | C28H31NO6S
